US09376408B2
The S-((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-2-((tert-butoxycarbonyl)amino)propyl) ethanethioate (580 mg, 1.30 mmol) in MeOH (30 ml) was thoroughly degassed and degassed NaOH solution (1.43 ml, 1.43 mmol) was added dropwise. The reaction was stirred at r.t. for 30 minutes under a N2 atmosphere to yield tert-butyl ((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-1-mercaptopropan-2-yl)carbamate. To the same reaction was added TFA (0.502 ml, 6.51 mmol), and the reaction mixture was stirred for 10 min., and then MeOH was removed. The residue was redissolved in DCM (6.0 ml), TFA (50% in DCM) (4.0 ml, 26.0 mmol) was added, and the mixture was stirred for 40 minutes at room temperature to yield (2S)-2-amino-1-(3,5-bis(trifluoromethyl)phenyl)propane-1-thiol. The reagents were removed, and the residue was dried under high vacuum. The reaction was dissolved in DCM (12.00 ml), degassed, and was cooled to 0° C. DIPEA (0.682 ml, 3.91 mmol) was added, followed by triphosgene (155 mg, 0.521 mmol), which was predissolved in DCM (6.0 ml) under N2 atmosphere dropwise. The reaction was stirred for 30 minutes to yield ((4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-4-methylthiazolidin-2-one. The reaction was diluted with DCM, washed with 1N NaHCO3 solution, then brine. The organic layer was then dried over Na2SO4, filtered, and concentrated to yield (4S,5R)-5-(3,5-bis(trifluoromethyl)phenyl)-4-methylthiazolidin-2-one. 1H NMR (500 MHz, CDCl3): δ 7.90 (s, 1H); 7.86 (s, 2H); 5.00 (d, J=6.9 Hz, 1H); 4.41-4.42 (m, 1H); 0.99 (d, J=6.6 Hz, 3H).

reactant | S-((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-2-((tert-butoxycarbonyl)amino)propyl) ethanethioate | 1.30 mmol, 580 mg | C(C)(SC([C@H](C)NC(=O)OC(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C18H21F6NO3S
reactant | NaOH | 1.43 mmol, 1.43 ml | [OH-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | tert-butyl ((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-1-mercaptopropan-2-yl)carbamate | FC(C=1C=C(C=C(C1)C(F)(F)F)C([C@H](C)NC(OC(C)(C)C)=O)S)(F)F | C16H19F6NO2S
